US08431575B2
To a stirred solution of (±)-cis-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-piperidin-4-ol (0.27 mmol, 0.14 g) in DCM (1 mL) was added formaldehyde solution (1 mL) followed by sodium triacetoxyborohydride (0.5 g) and continued stirring the reaction mixture for 2 h at room temperature. The reaction mixture was diluted with DCM, separated the organic layer, dried, filtered and concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography by eluting with DCM (300 mL) followed 10% methanolic solution of ammonia (2 M solution of NH3 in methanol) in DCM to provide (±)-cis-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-1-methyl-piperidin-4-ol which was converted to dihydrochloride salt by treating with 4 N HCl in dioxane. The volatiles were removed under educed pressure, salt was washed with anhydrous ether and solid was dried under high vacuum to provide the title compound (0.121 g). LCMS: m/z 455 [M+1]. 1H NMR (400 MHz, CD3OD) δ 7.78 (1H, s), 7.46 (2H, d), 7.12 (2H, d), 4.6-4.73 (1H, m), 4.5-4.58 (2H, m), 4.19 (1H, bs), 3.11-3.53 (6H, m), 2.93 (3H, s), 2.58 (1H, m), 1.99-2.05 (3H, m), 1.8 (2H, m), 1.24-1.60 (11H, m), 0.82 (3H, t).

reactant | (±)-cis-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-piperidin-4-ol | 0.27 mmol, 0.14 g | C(CCC)C1=C(C=C(N=N1)OC[C@@H]1CNCC[C@@H]1O)C1=CC=C(C=C1)OC1CCCCC1 | C26H37N3O3
reactant | formaldehyde | 1 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (±)-cis-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-1-methyl-piperidin-4-ol | C(CCC)C1=C(C=C(N=N1)OC[C@@H]1CN(CC[C@@H]1O)C)C1=CC=C(C=C1)OC1CCCCC1 | C27H39N3O3
